US07001973B2
A.4. Preparation of N,N-dimethyl-N-ethyl-N-(4-methoxybenzyl)ammonium 2-ethylhexanoate (cat. 4)
The preparation was conducted as described for cat.1(A. 1.). Instead of pivalic acid, 2-ethylhexanoic acid was used, and instead of benzyldimethylamine, N,N-dimethyl-N-(4-methoxybenzyl)amine was used. Yield: 45.3 g (67%) of cat. 4 as a pale yellow, viscous oil.

reactant | pivalic acid | C(C(C)(C)C)(=O)O | C5H10O2
reactant | 2-ethylhexanoic acid | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | benzyldimethylamine | C(C1=CC=CC=C1)N(C)C | C9H13N
reactant | N,N-dimethyl-N-(4-methoxybenzyl)amine | CN(CC1=CC=C(C=C1)OC)C | C10H15NO
product | N,N-dimethyl-N-ethyl-N-(4-methoxybenzyl)ammonium 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.C[N+](CC1=CC=C(C=C1)OC)(CC)C | InChI=1S/C12H20NO.C8H16O2/c1-5-13(2,3)10-11-6-8-12(14-4)9-7-11;1-3-5-6-7(4-2)8(9)10/h6-9H,5,10H2,1-4H3;7H,3-6H2,1-2H3,(H,9,10)/q+1;/p-1
